US04000302
(Found: C, 42.3; H, 5.1; N, 27.2; S, 25.3. C9H13N5S2 requires: C, 42.3; H, 5.1; N, 27.4; S, 25.1). Hydrolysis of N-cyano-N'-methyl-N"-[2-(2-thiazolylmethylthio)ethyl]guanidine by treating with concentrated hydrochloric acid at 100° for 4 hours gives N-methyl-N'-[2-(2-thiazolylmethylthio)ethyl]guanidine dihydrochloride.

reactant | N-cyano-N'-methyl-N"-[2-(2-thiazolylmethylthio)ethyl]guanidine | C(#N)NC(=NCCSCC=1SC=CN1)NC | C9H13N5S2
reactant | hydrochloric acid | Cl | ClH
product | N-methyl-N'-[2-(2-thiazolylmethylthio)ethyl]guanidine dihydrochloride | Cl.Cl.CNC(=N)NCCSCC=1SC=CN1 | InChI=1S/C8H14N4S2.2ClH/c1-10-8(9)12-2-4-13-6-7-11-3-5-14-7;;/h3,5H,2,4,6H2,1H3,(H3,9,10,12);2*1H
